US08053454B2
3-Chloro-N-[5-chloro-2-(1H-tetrazol-5-yl)phenyl]benzamide
The title compound was prepared essentially according to the method of Example 4, but using 5-Chloro-2-(1H-tetrazol-5-yl)aniline (1.0 mmol) and 3-chlorobenzoyl chloride. After precipitation, the product was further purified by reverse phase C18 preparative HPLC (water/acetonitrile w/0.1% formic acid, 30%-100% eluant gradient) to yield the desired product (46.0 mg, 13%). 1H NMR (400 MHz, d6-DMSO): δ 13.07 (s, 1H), 8.87 (s, 1H), 8.29 (s, 1H), 8.17 (s, 1H), 7.76 (m, 2H), 7.27 (s, 1H), 6.96 (s, 2H). MS (EI) for C14H9Cl2N5O: 334.2 (M+H).

reactant | 5-Chloro-2-(1H-tetrazol-5-yl)aniline | 1.0 mmol | ClC=1C=CC(=C(N)C1)C1=NN=NN1 | C7H6ClN5
reactant | 3-chlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
product | 3-Chloro-N-[5-chloro-2-(1H-tetrazol-5-yl)phenyl]benzamide | 46.0 mg, 13% | ClC=1C=C(C(=O)NC2=C(C=CC(=C2)Cl)C2=NN=NN2)C=CC1 | C14H9Cl2N5O
